US06774130B2
To a stirring solution of 3,7-dimethyluric acid (0.40 g, 2.04 mmol) in dimethylsulfoxide (20 ml) was added sodium hydride (49 mg, 2.04 mmol) in one portion. After stirring for 45 minutes, a solution of chloromethyl pivalate (0.29 g, 2.04 mmol) in dimethylsulfoxide (1 ml). After stirring for 24 hours, water (50 ml) was added. After cooling to room temperature, the solid was filtered, rinsed with water (4×20 ml), with ether (20 ml) and dried under vacuum to give 9-pivaloyloxymethyl-3,7-dimethyluric acid (0.18 g, 28% yield) as a white solid.

reactant | 3,7-dimethyluric acid | 2.04 mmol, 0.40 g | CN1C(NC(C=2N(C(NC12)=O)C)=O)=O | C7H8N4O3
reactant | sodium hydride | 2.04 mmol, 49 mg | [H-].[Na+]
reactant | chloromethyl pivalate | 2.04 mmol, 0.29 g | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | 9-pivaloyloxymethyl-3,7-dimethyluric acid | 0.18 g, 28% yield | C(C(C)(C)C)(=O)OCN1C=2N(C(NC(C2N(C1=O)C)=O)=O)C | C13H18N4O5
